US06878715B1
A suspension of (S)-1-(5-hydroxyhexyl)-7-benzyl-8-chloromethyl-3-methylxanthine (2.0 g, 5.0 mmol) and sodium azide (1.62 g, 25 mmol) in methyl sulfoxide (15 ml) was stirred at 60° C. overnight. The reaction mixture was quenched by addition of water (30 ml) and extracted with ethyl acetate (3×25 ml). The combined extracts were washed with water (2×10 ml), with saturated aqueous sodium chloride solution (25 ml), dried over magnesium sulfate, and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with ethyl acetate to provide (S)-1-(5-hydroxyhexyl)-7-benzyl-8-azidomethyl-3-methylxanthine (1.7 g, 83% yield) as a colorless oil.

reactant | (S)-1-(5-hydroxyhexyl)-7-benzyl-8-chloromethyl-3-methylxanthine | 5.0 mmol, 2.0 g | O[C@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)CCl)C)C | C20H25ClN4O3
reactant | sodium azide | 25 mmol, 1.62 g | [N-]=[N+]=[N-].[Na+]
solvent | methyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | (S)-1-(5-hydroxyhexyl)-7-benzyl-8-azidomethyl-3-methylxanthine | 1.7 g, 83% yield | O[C@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)CN=[N+]=[N-])C)C | C20H25N7O3
